US07687491B2
(22e) 3-{4-Ethyl-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-thienyl}-5-(4-phenoxyphenyl)-1,2,4-oxadiazole
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 5 (5a) using 4-phenoxybenzoic acid (0.16 g, 0.73 mmol), 1-hydroxybenzotriazole (0.12 g, 0.76 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.15 g, 0.76 mmol), 4-ethyl-N′-hydroxy-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]thiophene-2-carboximidamide (0.17 g, 0.69 mmol) that was obtained in Example 22 (22d) and tetrabutylammonium fluoride (a 1.0 M solution in tetrahydrofuran, 14 ml, 1.4 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 2:8) as the eluent to afford the title compound (0.25 g) in a yield of 78% as a colourless oily product.

reactant | 4-phenoxybenzoic acid | 0.73 mmol, 0.16 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | 1-hydroxybenzotriazole | 0.76 mmol, 0.12 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.76 mmol, 0.15 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-ethyl-N′-hydroxy-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]thiophene-2-carboximidamide | 0.69 mmol, 0.17 g | C(C)C=1C=C(SC1COC1OCCCC1)C(N)=NO | C13H20N2O3S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-{4-Ethyl-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-thienyl}-5-(4-phenoxyphenyl)-1,2,4-oxadiazole | C(C)C=1C=C(SC1COC1OCCCC1)C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C26H26N2O4S
